US05656645
Preparation of N-(t-butoxycarbonyl)-3-(3-pyridyl)-L-alanine methyl ester
To a solution of N-(t-butoxycarbonyl)-3-(3-pyridyl)alanine (5.0 g, 18.8 mmole) in methanol (100 mL) was added thionyl chloride (2M solution in dichloromethane, 66 mL, 132 mmole). The resulting solution was stirred overnight at ambient temperature. The methanol was removed under reduced pressure to a minimum volume and ethyl acetate (100 mL) was added. The resulting white precipitate was collected in a fritted funnel. To a solution of the collected precipitate in a mixture of tetrahydrofuran/water (40 mL each) was added di-tert-butyl dicarbonate (4.8 g, 21.99 mmole) and sodium carbonate (1.95 g, 18.4 mmole). After stirring for 12 hours at ambient temperature, the reaction mixture was diluted with ethyl acetate (40 mL) and washed with a solution of saturated sodium bicarbonate (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to give crude product. This product was subjected to flash column chromatography on silica gel (230-400 mesh) using a 8×52 cm column and eluting with a 10:90 mixture of ethyl acetate/hexane followed by a 60:40 mixture of ethyl acetate/hexane. 4 g (74%) of the title compound was obtained as an oil. Thin-layer chromatography gave a Rf =0.68 (silica gel; ethyl acetate).

reactant | N-(t-butoxycarbonyl)-3-(3-pyridyl)alanine | 18.8 mmole, 5.0 g | C(C)(C)(C)OC(=O)N[C@@H](CC=1C=NC=CC1)C(=O)O | C13H18N2O4
reactant | thionyl chloride | 132 mmole, 2M, 66 mL | S(=O)(Cl)Cl | Cl2OS
reactant | di-tert-butyl dicarbonate | 21.99 mmole, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 18.4 mmole, 1.95 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | N-(t-butoxycarbonyl)-3-(3-pyridyl)-L-alanine methyl ester | 4 g, 74% | COC([C@@H](NC(=O)OC(C)(C)C)CC=1C=NC=CC1)=O | C14H20N2O4
